US05125958
To a stirred, cold (-5° C) mixture of 10.0 g (0.0379 mole) of 2-(5-amino-2-chloro-4-fluorophenyl)-1,3-dithiane in 100 mL of concentrated hydrochloric acid is added dropwise a solution of 2.55 g (0.0379 mole) of sodium nitrite in 20 mL of water. This mixture is stirred at -5° C. for approximately 45 minutes. A solution of 17.1 g (0.0758 mole) of tin (II) chloride dihydrate in 30 mL of concentrated hydrochloric acid is added dropwise. This mixture is allowed to stir for one hour. A solution of 5.16 g (0.117 mole) of acetaldehyde in 200 mL of water is added slowly. The resultant mixture is stirred for one hour during which a precipitate forms. This solid is collected by filtration and is washed with water and dried to yield acetaldehyde 4-chloro-2-fluoro-5-(1,3-dithian-2-yl)phenylhydrazone.

reactant | 2-(5-amino-2-chloro-4-fluorophenyl)-1,3-dithiane | 0.0379 mole, 10.0 g | NC=1C(=CC(=C(C1)C1SCCCS1)Cl)F | C10H11ClFNS2
reactant | sodium nitrite | 0.0379 mole, 2.55 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 0.0758 mole, 17.1 g | O.O.[Sn](Cl)Cl
reactant | acetaldehyde | 0.117 mole, 5.16 g | C(C)=O | C2H4O
solvent | hydrochloric acid | 100 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 30 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | acetaldehyde 4-chloro-2-fluoro-5-(1,3-dithian-2-yl)phenylhydrazone | ClC1=CC(=C(C=C1C1SCCCS1)NN=CC)F | C12H14ClFN2S2
